US08067445B2
Step 2: Trifluoro-methanesulfonic acid 3-[(S)-1((R)-1-methyl-2-phenyl-ethylcarbamoyl)-ethyl]-5-trifluoromethyl-phenyl ester
Prepared according to the procedure described in Example 41, Step 4, using the following starting materials: (S)-2-(3-Hydroxy-5-trifluoromethyl-phenyl)-N—((R)-1-methyl-2-phenyl-ethyl)-propionamide and N-phenyl-bis(trifluoromethanesulfonimide).

reactant | (S)-2-(3-Hydroxy-5-trifluoromethyl-phenyl)-N—((R)-1-methyl-2-phenyl-ethyl)-propionamide | OC=1C=C(C=C(C1)C(F)(F)F)[C@@H](C(=O)N[C@@H](CC1=CC=CC=C1)C)C | C19H20F3NO2
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
product | Trifluoro-methanesulfonic acid 3-[(S)-1((R)-1-methyl-2-phenyl-ethylcarbamoyl)-ethyl]-5-trifluoromethyl-phenyl ester | C[C@H](CC1=CC=CC=C1)NC(=O)[C@@H](C)C=1C=C(C=C(C1)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C20H19F6NO4S
